US07504410B2
Ammonia was bubbled into a solution of 3-nitrophenylisocyanate (1.5 g, 9.1 mmol) for ten minutes. The reaction mixture was then concentrated and the resulting yellow solid was washed with ether (200 mL) to afford N-(3-nitrophenyl)-urea (1.35 g, 7.5 mmol).

reactant | Ammonia | N | H3N
reactant | 3-nitrophenylisocyanate | 9.1 mmol, 1.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
product | N-(3-nitrophenyl)-urea | 7.5 mmol, 1.35 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)N | C7H7N3O3
